US06921767B2
2-methyl-8-(tert-butoxycarbonyl)-5,6,7,8-tetrahydro-1,8-naphthyridine
The compound was prepared according to the procedure as described in WO 0033838. To a solution of 2-methyl-5,6,7,8-tetrahydro-1,8-naphthyridine (1 g, 6.7 mmol) in methylenechloride (10 ml) was added di-tert-butyl dicarbonate (3 g, 13 mmol), triethylamine (0.68 g, 6.7 mmol) and 4-DMAP (50 mg), the reaction mixture was refluxed overnight. The reaction mixture was concentrated under vacuum. The concentrated residue was purified on silica gel (1% methanol in methylenechloride) to give 1.1 g (69%) orange solid. NMR (CD3OD) δ 1.50 (s, 9H),1.88-1.95 (m, 2H), 2.43 (s, 3H), 2.73-2.78 (m, 2H), 3.29-3.31 (m, 2H), 3.72-3.76 (m,2H), 6.95 (d, 1H, J=7.76 Hz), 7.44 (d, 1H, J=7.76 Hz).

reactant | 2-methyl-5,6,7,8-tetrahydro-1,8-naphthyridine | 6.7 mmol, 1 g | CC1=NC=2NCCCC2C=C1 | C9H12N2
reactant | di-tert-butyl dicarbonate | 13 mmol, 3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 6.7 mmol, 0.68 g | C(C)N(CC)CC | C6H15N
solvent | methylenechloride | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-DMAP | 50 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-methyl-8-(tert-butoxycarbonyl)-5,6,7,8-tetrahydro-1,8-naphthyridine | 1.1 g, 69% | CC1=NC=2N(CCCC2C=C1)C(=O)OC(C)(C)C | C14H20N2O2
